US07541481B2
1.2. Preparation of (1-(2-pyridylethyl)indenyl)chromium dichloride
A solution of 22.1 g (0.1 mol) of 2-[2-(1H-inden-3-yl)ethyl]pyridine in 470 ml of tetrahydrofuran was cooled to −100° C. 62.5 ml of a 15% strength n-butyllithium solution in hexane (0.1 mol) were slowly added dropwise. After the addition was complete, the reaction mixture was stirred for a further 50 minutes at −100° C. The mixture was subsequently allowed to warm to room temperature. After stirring for another 2 hours, the solution was cooled to −60° C. and 38 g (0.1 mol) of chromium trichloride tris(tetrahydrofuran) were added while stirring. The mixture was allowed to warm slowly to room temperature and was subsequently stirred for another 10 hours at room temperature. The reaction mixture was then refluxed for 20 minutes and subsequently cooled to room temperature. The solid which had precipitated was filtered off and washed with hot tetrahydrofuran. The solid was subsequently washed with diethyl ether and dried under reduced pressure. This gave 28.1 g of (1-(2-pyridylethyl)indenyl)chromium dichloride (82%).

reactant | 2-[2-(1H-inden-3-yl)ethyl]pyridine | 0.1 mol, 22.1 g | C1C=C(C2=CC=CC=C12)CCC1=NC=CC=C1 | C16H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.1 mol | CCCCCC | C6H14
reactant | chromium trichloride tris(tetrahydrofuran) | 0.1 mol, 38 g | O1CCCC1.O1CCCC1.O1CCCC1.[Cl-].[Cl-].[Cl-].[Cr+3]
solvent | tetrahydrofuran | 470 ml | O1CCCC1 | C4H8O
product | (1-(2-pyridylethyl)indenyl)chromium dichloride | [Cl-].[Cl-].N1=C(C=CC=C1)CCC1C(=CC2=CC=CC=C12)[Cr+2] | InChI=1S/C16H14N.2ClH.Cr/c1-2-7-16-13(5-1)8-9-14(16)10-11-15-6-3-4-12-17-15;;;/h1-8,12,14H,10-11H2;2*1H;/q;;;+2/p-2
